US07696215B2
To a solution of methyl 4-methyl-3-(4-oxo-6-piperazin-1-ylquinazolin-3(4H)-yl)benzoate (0.5 g) and cyclobutanone (0.20 ml) in THF (42.5 ml) was added titanium (IV) isopropoxide (0.75 ml) and the solution stirred at room temperature for 30 minutes. Sodium triacetoxyborohydride (0.83 g) was added and the reaction stirred at room temperature for 18 hours. Water was added and the resultant solid removed by filtration. The aqueous filtrate was washed with ethyl acetate. The organic layer was washed 1N NaOH (×2), water, brine, dried (magnesium sulphate) and to yield methyl 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate as a yellow foam (0.45 g); NMR Spectrum: (DMSOd6) 1.66 (m, 2H), 1.84 (m, 2H), 2.00 m, 2H), 2.16 (s, 3H), 2.42 (m, 4H), 2.75 (m, 1H), 3.27 (m, 4H), 3.87 (s, 3H), 7.48 (s, 1H), 7.62 (m, 3H), 7.97 (s, 1H), 8.02 (d, 1H), 8.09 (s, 1H); Mass Spectrum: M+H+ 433.

reactant | methyl 4-methyl-3-(4-oxo-6-piperazin-1-ylquinazolin-3(4H)-yl)benzoate | 0.5 g | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCNCC1 | C21H22N4O3
reactant | cyclobutanone | 0.20 ml | C1(CCC1)=O | C4H6O
reactant | Sodium triacetoxyborohydride | 0.83 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | THF | 42.5 ml | C1CCOC1 | C4H8O
catalyst | titanium (IV) isopropoxide | 0.75 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | methyl 3-[6-[4-(cyclopropylmethyl)piperazin-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | 0.45 g | C1(CC1)CN1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C25H28N4O3
